US09382228B2
A solution of 2,2,2-trimethylacetamide (0.084 g, 0.834 mmol) in DCE (3 mL) was treated with oxalyl chloride (0.073 mL, 0.834 mmol), stirred at RT for 1 h, then heated at 75° C. for 3 h. The mixture was cooled to RT, treated with a solution of 6′-(bis(tert-butoxycarbonyl)amino)-4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridine](0.2 g, 0.417 mmol) and TEA (0.174 mL, 1.251 mmol) in DCM (3 mL) and stirred at RT for 2 h. The mixture was treated with brine, extracted with DCM (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford N-((5-((6′-(bis(tert-butoxycarbonyl)amino)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (230 mg, 91%) as a white amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 11.22 (s, 1H), 10.45 (br s, 1H), 9.08 (d, J=2.5 Hz, 1H), 8.58 (d, J=5.7 Hz, 1H), 8.49 (dd, J=8.5, 2.5 Hz, 1H), 8.30 (d, J=2.9 Hz, 1H), 8.10 (d, J=9.0 Hz, 1H), 7.78 (dd, J=9.0, 2.9 Hz, 1H), 7.73 (d, J=2.4 Hz, 1H), 7.48 (d, J=8.4 Hz, 1H), 6.94 (dd, J=5.7, 2.4 Hz, 1H), 1.40 (s, 18H), 1.21 (s, 9H); MS (ESI) m/z: 607.3 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.834 mmol, 0.084 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.834 mmol, 0.073 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6′-(bis(tert-butoxycarbonyl)amino)-4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridine] | 0.417 mmol, 0.2 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=NC(=CC1)N)C(=O)OC(C)(C)C | C25H29N5O5
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | N-((5-((6′-(bis(tert-butoxycarbonyl)amino)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 230 mg, 91% | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O)C(=O)OC(C)(C)C | C31H38N6O7
